US06916815B2
(S)-(−)-4-Benzyl-3-hydroxymethylmorpholine hydrochloride (35.0 g, 0.144 mol) was added to a mixture of ethyl acetate (250 mL) and 2N sodium hydroxide solution (200 mL) and the mixture rapidly stirred for 15 minutes. The ethyl acetate layer was then separated, dried (MgSO4) and filtered. A 500 mL Parr flask was then charged with di-tert-butyl dicarbonate (32.0 g, 0.151 mol) and the above filtrate. The flask was then purged with nitrogen and palladium on carbon (1.50 g, 50% wet, 5% palladium) added. The mixture was then hydrogenated at 45 psi of hydrogen until uptake ceased (2-3 h). Filtration of the mixture through a pad of celite and concentration of the filtrate gave (R)-(−)-3-hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester in quantitative yield. 1H NMR analysis of this material revealed the presence of approximately 5% di-tert-butyl dicarbonate. This impurity did not appear to affect subsequent chemistry and the material was used without further purification.

reactant | (S)-(−)-4-Benzyl-3-hydroxymethylmorpholine hydrochloride | 0.144 mol, 35.0 g | Cl.C(C1=CC=CC=C1)N1[C@H](COCC1)CO
reactant | sodium hydroxide | 2N, 200 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.151 mol, 32.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | (R)-(−)-3-hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)CO | C10H19NO4
